US08623859B2
N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-2-methylfuran-3-carboxamide
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-2-methylfuran-3-carboxylic acid (100 mg, 0.28 mmol) was dissolved in DMF (2 mL) and EDCI (65 mg, 0.34 mmol) and HOAt (46 mg, 0.34 mmol) were added. 1 mL of this solution was added to a flask containing 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine.HCl (27 mg, 0.13 mmol) and DIPEA (0.024 mL, 0.14 mmol) in DMF (2 mL). The reaction was concentrated and diluted with DCM, then washed with saturated aqueous NH4Cl (2×2 mL) and saturated brine (2 mL), and dried over MgSO4. The filtrate was shaken with Ambersep and PL-MIA resins for 48 h, then filtered. The solvent was removed in vacuo and a portion of the crude product purified using prep method C.

reactant | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-2-methylfuran-3-carboxylic acid | 0.28 mmol, 100 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=C(O1)C)C(=O)O)C | C17H21NO6S
reactant | EDCI | 0.34 mmol, 65 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.34 mmol, 46 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine | N1C(=NCC1)C1=CC=C(C=C1)C(C)N | C11H15N3
reactant | HCl | 0.13 mmol, 27 mg | Cl | ClH
reactant | DIPEA | 0.14 mmol, 0.024 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-2-methylfuran-3-carboxamide | N1C(=NCC1)C1=CC=C(C=C1)CCNC(=O)C1=C(OC(=C1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C28H34N4O5S
